US05157026
Step 1: 7-Methyl-2-nonylimidazo[4,5-b]pyridine
The title compound was prepared from 2,3-diamino-4-picoline (0.246 g, 2 mmol) and decanoic acid (0.35 g, 2 mmol) according to the procedure described in Step 1 of Example 9. The crude product was purified by flash chromatography on silica-gel using EtOAc-MeOH (20:1) to give the pure product (0.38 g, 72%) as a tan colored solid.

reactant | 2,3-diamino-4-picoline | 2 mmol, 0.246 g | NC1=NC=CC(=C1N)C | C6H9N3
reactant | decanoic acid | 2 mmol, 0.35 g | C(CCCCCCCCC)(=O)O | C10H20O2
product | 7-Methyl-2-nonylimidazo[4,5-b]pyridine | CC1=C2C(=NC=C1)N=C(N2)CCCCCCCCC | C16H25N3
